US07981903B2
The remaining half of the reaction mixture from the preparation of 2-[(2-{[1-(N,N-diethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide was diluted with THF (100 mL) and a solution of methylamine (1M in THF, 10 mL). After 4 h the reaction mixture was concentrated, the resulting residue was sonicated in CH2Cl2 (10 mL) and filtered. The filtrate was purified by silica gel chromatography using 0-5% MeOH (containing 0.2% NH3)/CH2Cl2. The product was dissolved in THF (10 mL) and MeOH (20 mL) and treated with a solution of sodium methoxide (0.5M in MeOH, 4 mL, 2 mmol). The reaction mixture was stirred for 2 days, then concentrated onto Celite and purified by silica gel chromatography using 4% MeOH (containing 0.2% NH3)/CH2Cl2 to obtain 2-[(2-{[1-(N,N-diethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide as a yellow solid (60 mg, 30% for 3 steps). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.98 (t, J=7.15 Hz, 6H) 2.58 (q, J=6.72 Hz, 4H) 2.80 (d, J=4.77 Hz, 3H), 3.12 (t, J=8.43 Hz, 2H),3.77 (s, 3H), 4.24 (t, J=8.43 Hz, 2H), 6.27 (dd, J=3.30, 1.83 Hz, 1H), 6.76-7.03 (m, 3H), 7.26-7.39 (m, 1H), 7.57 (s, 1H), 8.36 (d, J=8.43 Hz, 1H), 8.54 (s, 1H), 8.62 (s, 1H), 10.16 (s, 1H), 11.26 (s, 1H), a CH2 signal with 2 protons is missing, may overlap with water peak in sample; ESIMS (M+H)+=561.27.

reactant | 2-[(2-{[1-(N,N-diethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide | C(C)N(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)N)C(=CC=C2)F)OC)CC | C28H31FN8O3
reactant | methylamine | 1M, 10 mL | CN | CH5N
reactant | MeOH | 20 mL | CO | CH4O
reactant | sodium methoxide | 2 mmol, 0.5M, 4 mL | C[O-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-[(2-{[1-(N,N-diethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide | C(C)N(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)NC)C(=CC=C2)F)OC)CC | C29H33FN8O3
